US05376680
Using an analogous procedure to that described in Example 1 except that the reactants were heated to 60° C. for 2 hours, acetone oxime was reacted with 4-{3-[4-(1-chloroethyl)phenylthio]-5-fluorophenyl}-4-methoxytetrahydropyran to give acetone O-{4-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio)-α-methylbenzyl}oxime as an oil in 58% yield.

reactant | acetone oxime | CC(C)=NO | C3H7NO
reactant | 4-{3-[4-(1-chloroethyl)phenylthio]-5-fluorophenyl}-4-methoxytetrahydropyran | ClC(C)C1=CC=C(C=C1)SC=1C=C(C=C(C1)F)C1(CCOCC1)OC | C20H22ClFO2S
product | acetone O-{4-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio)-α-methylbenzyl}oxime | 58% yield | FC=1C=C(C=C(C1)SC1=CC=C(C(C)ON=C(C)C)C=C1)C1(CCOCC1)OC | C23H28FNO3S
